US04659831
55 parts of 1-benzamido-4-bromoanthraquinone, 45 parts of 1-amino-5-benzamidoanthraquinone, 10 parts of sodium carbonate and 1.4 parts of copper(I) chloride are suspended in 550 parts of nitrobenzene. With stirring, the mixture is heated to 190° C. and then a further 1.3 parts of copper(I) chloride are added. The reaction mixture is heated to 205° C. and stirred for 3 hours at this temperature while distilling off the water of reaction. The batch is then heated to 215° C. and the pressure rises to about 1 bar. Stirring is continued for another 2 hours under these conditions. The reaction mixture is then slightly cooled and the nitrobenzene is removed by distillation. The reaction product is dried, affording about 85 parts of anthrimide, which can be converted into a brown vat dye by carbazolation.

reactant | 1-benzamido-4-bromoanthraquinone | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)Br | C21H12BrNO3
reactant | 1-amino-5-benzamidoanthraquinone | NC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)NC(C1=CC=CC=C1)=O)=O | C21H14N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper(I) chloride | [Cu]Cl
product | anthrimide | C1=CC=C2C(=C1)C(=O)C3=C(C2=O)C(=CC=C3)NC4=CC=CC5=C4C(=O)C6=CC=CC=C6C5=O | C28H15NO4
